US04628115
A mixture of 5.8 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 5.4 ml of 7-bromoheptanenitrile and 8.3 g of anhydrous potassium carbonate in 50 ml of dimethyl formamide was stirred and heated at 75° for 20 hours. The reaction mixture was filtered and the filtrate was concentrated on the oil pump. The residual oil was chromatographed on 200 g of silica gel using 5% ethyl acetate-toluene to give 7.5 g (83% yield) of 7-(4-acetyl-3-hydroxy-2-propylphenoxy)heptane nitrile. This was dissolved in 200 ml of ether-methanol (1:1) and cooled in an ice bath while a stream of hydrochloric acid gas was introduced for 10 minutes. The reaction mixture was kept at 3° for 1 hour and at room temperature for 16 hours. Water (40 ml) was added and most of the solvent was removed in vacuo. The residue was treated with sodium bicarbonate solution to basify and the product was extracted with ether. The crude product was dissolved in 140 ml of methanol, treated with 120 ml of 1N sodium hydroxide and the solution was heated on the steam bath for 10 minutes and left at room temperature for 66 hours. The methanol was removed in vacuo and the aqueous solution was extracted with ether. The basic aqueous layer was acidified and extracted with ether. The dried (over magnesium sulfate) extract was concentrated and chromatographed on 50 g of silica gel. Elution with acetic acid (5): ethyl acetate (25): toluene (70) and crystallization of the combined pure fractions from ether-hexane gave 2.20 g, mp 64°-66°, of 7-(4-acetyl-3-hydroxy-2-propylphenoxy)heptanoic acid.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 5.8 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 7-bromoheptanenitrile | 5.4 ml | BrCCCCCCC#N | C7H12BrN
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(4-acetyl-3-hydroxy-2-propylphenoxy)heptane nitrile | 7.5 g, 83% yield | C(C)(=O)C1=C(C(=C(OCCCCCCC#N)C=C1)CCC)O | C18H25NO3
